US07595312B2
tert-butyl-piperidin-4-yl-amine (Example 10.50)
Under an argon atmosphere a solution of 8.6 mL (78 mmol) TiCl4 in 100 mL toluene was added dropwise to a solution, cooled to 0° C., of 24.1 mL (130 mmol) 1-benzyl-piperidin-4-one and 55 mL (519 mmol) of tert-butylamine in 200 mL toluene in such a way that the internal temperature did not exceed 15° C. The reaction mixture was stirred overnight at RT, the precipitate formed was suction filtered and the solution remaining after the addition of 65 mg of platinum oxide was hydrogenated until the theoretical uptake of H2 had been achieved. After hydrogenation had ended, 160 mL of 2 N NaOH solution were added to the suspension, it was filtered, the organic phase was separated off, the aqueous solution was extracted three times with toluene and the combined organic phases were dried over Na2SO4. After the desiccant and solvent had been eliminated the product was further reacted without being purified.

reactant | 1-benzyl-piperidin-4-one | 130 mmol, 24.1 mL | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | tert-butylamine | 519 mmol, 55 mL | C(C)(C)(C)N | C4H11N
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
catalyst | TiCl4 | 78 mmol, 8.6 mL | Cl[Ti](Cl)(Cl)Cl
product | tert-butyl-piperidin-4-yl-amine | C(C)(C)(C)NC1CCNCC1 | C9H20N2
